US07442839B2
vii) (5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-3-{6-[4-(3-iodophenyl)butoxy]hexyl}-1,3-oxazolidin-2-one
Sodium hydride (60% dispersion in oil 1.26 g) was added to a stirred, cooled (ice-bath) solution of (5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxazolidinone (5.47 g) in dry DMF (50 ml) under nitrogen and the mixture was stirred for 15 min at 50° C. A solution of 6-bromohexyl 4-(3-iodophenyl)butyl ether (10.7 g) in DMF (30 ml) was then added dropwise over 10 min. The mixture was stirred for 2 h at ambient temperature, then poured into aqueous solution of ammonium chloride and extracted into ethyl acetate. The combined extracts were washed with water, dried (Na2SO4) and evaporated. The residue was purified on biotage (90 g cartridge) eluting with ether-hexane (3:2) to give the title compound (9.8 g). LCMS RT=4.20 min.

reactant | Sodium hydride | 1.26 g | [H-].[Na+]
reactant | (5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxazolidinone | 5.47 g | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CNC(O2)=O)C | C13H15NO4
reactant | 6-bromohexyl 4-(3-iodophenyl)butyl ether | 10.7 g | IC=1C=C(C=CC1)CCCCOCCCCCCBr | C16H24BrIO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | (5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-3-{6-[4-(3-iodophenyl)butoxy]hexyl}-1,3-oxazolidin-2-one | 9.8 g | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCCCCCOCCCCC2=CC(=CC=C2)I)C | C29H38INO5
